US07943774B2
2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(3-phenylprop-1-yn-1-yl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (I-52)
tert-Butyl 4-[4-(3-phenylprop-1-yn-1-yl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (IV-5, 320 mg) is then deprotected dann analogously to Example II-2 and then reacted analogously to Example I-81 with [5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid (174 mg). After chromatographic purification, this gives 2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(3-phenylprop-1-yn-1-yl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (33 mg).

reactant | tert-Butyl 4-[4-(3-phenylprop-1-yn-1-yl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | 320 mg | C1(=CC=CC=C1)CC#CC=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H26N2O2S
reactant | [5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid | 174 mg | CC1=CC(=NN1CC(=O)O)C(F)(F)F | C7H7F3N2O2
product | 2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(3-phenylprop-1-yn-1-yl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C#CCC1=CC=CC=C1)C(F)(F)F | C24H23F3N4OS
